US08097708B2
Synthesis of 1-(oxiran-2-ylmethyl)piperidine
Piperidine (3 ml) was dissolved in t-butyl alcohol (1.2 ml), and the solution was added dropwise with (±)-epichlorohydrin (2.45 ml) on an ice bath. The mixture was slowly warmed to room temperature as it was, and stirred for 18 hours. Then, the mixture was added dropwise with a solution of potassium t-butoxide (3.39 g) in tetrahydrofuran (18 ml) under ice cooling so that the internal temperature should not exceed 15° C. After the addition, the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, the resulting residue was added to distilled water, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to obtain the title compound (1.55 g).

reactant | Piperidine | 3 ml | N1CCCCC1 | C5H11N
reactant | (±)-epichlorohydrin | 2.45 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium t-butoxide | 3.39 g | CC(C)([O-])C.[K+]
solvent | t-butyl alcohol | 1.2 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 1-(oxiran-2-ylmethyl)piperidine | 1.55 g | O1C(C1)CN1CCCCC1 | C8H15NO
